US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(2,4-dichlorobenzoyl)-2-(p-anisidino)propionic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-(2,4-dichlorobenzoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-(2,4-dichlorobenzoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyric acid (M.P. 159° to 160°).

reactant | N-(2,4-dichlorobenzoyl)-2-(p-anisidino)propionic acid | ClC1=C(C(=O)N(C2=CC=C(OC)C=C2)C(C(=O)O)C)C=CC(=C1)Cl | C17H15Cl2NO4
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-(2,4-dichlorobenzoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate | ClC1=C(C(=O)N(C2=CC=C(OC)C=C2)C(C(=O)N(C2=CC=C(OC)C=C2)CCCC(=O)OC)C)C=CC(=C1)Cl | C29H30Cl2N2O6
